US08710245B2
(a) Synthesis of 2-(5-ethylthiophen-2-yl)ethanol
To a solution of 2-ethylthiophene (2 g, 17.85 mmol, 1 eq) in anhydrous diethyl ether at 0° C. was added n-BuLi (8.6 mL, 21.4 mmol, 2.5 M in hexanes, 1.2 eq) over 15 minutes. The mixture was stirred at room temperature for 30 minutes. After cooling to 0° C., a solution of ethylene oxide (1.1 mL, 21.4 mmol, 1.2 eq) in anhydrous ether was added. After stirring at 0° C. for 3 hr, the reaction mixture was quenched with water and extracted with diethyl ether. The organic layer was dried over Na2SO4 and concentrated to give a crude product. The crude product was purified by column chromatography.

reactant | 2-ethylthiophene | 17.85 mmol, 2 g, 1 eq | C(C)C=1SC=CC1 | C6H8S
reactant | n-BuLi | 21.4 mmol, 2.5 M, 8.6 mL, 1.2 eq | [Li]CCCC
reactant | ethylene oxide | 21.4 mmol, 1.1 mL, 1.2 eq | C1CO1 | C2H4O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | 2-(5-ethylthiophen-2-yl)ethanol | C(C)C1=CC=C(S1)CCO | C8H12OS
